US06057371
N-(3-Phenylpropyl)-1-(3-trifluoromethylphenyl)-2-aminopropane Hydrochloride.
A mixture of 1-(3-trifluoromethylphenyl)-2-propanone (102 mg, 0.50 mmol), 3-phenyl-1-propylamine (86 mg, 0.64 mmol), glacial acetic acid (8 mg, 0.13 mmol), and MeOH (2 mL) was allowed to stir at room temperature for 0.5 h. To this mixture was added over a 4-h period sodium borohydride (19 mg, 0.50 mmol) and the mixture was allowed to stir at room temperature for 20 h. The solvents were removed by warming under reduced pressure to give a small amount of an oil which was cooled and treated with 10% HCl. The crude product separated as a white solid, 122 mg (68%), mp 135-145° C. The crystals were dissolved in H2O and the solution was extracted with Et2O. The H2O portion was separated, the H2O was evaporated, and the crystals reformed; recrystallization from acetone gave 66 mg (37%) of colorless crystals, mp 167-169° C.

reactant | 1-(3-trifluoromethylphenyl)-2-propanone | 0.50 mmol, 102 mg | FC(C=1C=C(C=CC1)CC(C)=O)(F)F | C10H9F3O
reactant | 3-phenyl-1-propylamine | 0.64 mmol, 86 mg | C1(=CC=CC=C1)CCCN | C9H13N
reactant | acetic acid | 0.13 mmol, 8 mg | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 0.50 mmol, 19 mg | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
product | N-(3-Phenylpropyl)-1-(3-trifluoromethylphenyl)-2-aminopropane Hydrochloride | 66 mg, 37% | Cl.C1(=CC=CC=C1)CCCNC(CC1=CC(=CC=C1)C(F)(F)F)C | InChI=1S/C19H22F3N.ClH/c1-15(23-12-6-10-16-7-3-2-4-8-16)13-17-9-5-11-18(14-17)19(20,21)22;/h2-5,7-9,11,14-15,23H,6,10,12-13H2,1H3;1H
